US07714099B2
2,4-Di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol
Benzotriazol-2-yl-4,6-di-tert-butyl-phenol (48.6 g, 0.15 mol) was placed in a 3-neck 1-L flask equipped with a stir bar, an addition funnel, a reflux condenser, and a flow control adapter. Through a three-way connecting tube the nitrogen flow was diverted to the flask via the condenser and to an oil bubbler. The bubbler was connected to a filtration flask containing aqueous sodium hydroxide. Hydrobromic acid (45% in acetic acid, 300 mL) was added. The system was purged with nitrogen for 15 min. The slurry was heated to 110° C. for 0.5 h and bromine (23.2 mL, 0.45 mol, 3 equivalent) was added dropwise. The addition was completed in 1 h and the mixture was stirred for an additional 1 h. Three more portions of bromine (3×23.2 mL, 3×0.45 mol) were added and stirring continued for one more hour. The flask was cooled to room temperature. Water (200 mL) was added and the mixture was filtered. The solid was collected and dissolved in dichloroethane (0.5 L). The solution was neutralized first with NaOH (aq) and then with NaHCO3 (aq). The organic layer was dried over magnesium sulfate. The drying agent was filtered off. The solvent of the filtrate was removed by rotary evaporation resulting in a viscous oil. Upon addition of acetone (200 mL) yellow crystalline solid was produced. The product was purified by recrystallization from acetone. Purity: 99+%. Yield: 5.1%. Melting point 244-246° C.

reactant | Benzotriazol-2-yl-4,6-di-tert-butyl-phenol | 0.15 mol, 48.6 g | N=1N(N=C2C1C=CC=C2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O | C20H25N3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Hydrobromic acid | 300 mL | Br | BrH
reactant | bromine | 0.45 mol, 23.2 mL, 3 equivalent | BrBr | Br2
reactant | bromine | 0.45 mol, 23.2 mL | BrBr | Br2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | Water | 200 mL | O | H2O
product | 2,4-Di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol | Yield: 5.1% | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C(=CC=C2Br)Br)O | C20H23Br2N3O
